US20010021718A1
(3R)-6-Cyclohexyl-3-{3-[(dimethylamino)carbonyl]-1,2,4-oxadiazol-5-yl}hexanoic acid
A solution of tert-butyl (3R)-6-cyclohexyl-3-{3-[(dimethylamino)carbonyl]-1,2,4-oxadiazol-5-yl}hexanoate (Preparation 10) (2.35 g, 5.97 mmol) in dichloromethane (10 ml) was treated with trifluoroacetic acid (2 ml) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 17 hours. The solvent was removed under reduced pressure and the residue azeotroped from dichloromethane. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol (98:2) to afford the title compound (1.27 g).

reactant | tert-butyl (3R)-6-cyclohexyl-3-{3-[(dimethylamino)carbonyl]-1,2,4-oxadiazol-5-yl}hexanoate | 5.97 mmol, 2.35 g | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C(=O)N(C)C | C21H35N3O4
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (3R)-6-Cyclohexyl-3-{3-[(dimethylamino)carbonyl]-1,2,4-oxadiazol-5-yl}hexanoic acid | 1.27 g | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)N(C)C | C17H27N3O4
